US08304419B2
Step C: 5-Acetyl-3-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide
HATU (0.092 g, 0.241 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol), 5-acetyl-3-chloro-1H-pyrrole-2-carboxylic acid (0.030 g, 0.161 mmol) and DIPEA (0.042 mL, 0.241 mmol) in DMF (2 mL). The resulting solution was stirred overnight. The reaction mixture was partitioned between water and EtOAc. The organic layer was separated, dried over MgSO4 and evaporated to a residue. Purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.0127 g, 16%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 3.29 (s, 3H) 4.48 (d, J=5.36 Hz, 2H) 7.10 (s, 1H) 7.36-7.56 (m, 4H) 7.80 (s, 1H) 8.71 (t, J=5.22 Hz, 1H) 12.31 (br. s., 1H). LCMS: m/z 477.9 (M−1).

reactant | HATU | 0.241 mmol, 0.092 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 5-acetyl-3-chloro-1H-pyrrole-2-carboxylic acid | 0.161 mmol, 0.030 g | C(C)(=O)C1=CC(=C(N1)C(=O)O)Cl | C7H6ClNO3
reactant | DIPEA | 0.241 mmol, 0.042 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-Acetyl-3-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide | 0.0127 g, 16% | C(C)(=O)C1=CC(=C(N1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)Cl | C21H13Cl3FN3O3
